US07122550B2
2-Methoxy-4-(6-{[(1S)-1-(4-methoxyphenyl)ethyl]amino}pyrazin-2-yl)phenol
In a procedure analogous to Example 2, reaction of 6-chloro-N-[(15)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine (149.4 mg, 0.57 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (156 mg, 0.62 mmol) furnished the product (71 mg, 35%).

reactant | 6-chloro-N-[(15)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine | 0.57 mmol, 149.4 mg | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=C(C=C1)OC | C13H14ClN3O
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.62 mmol, 156 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 2-Methoxy-4-(6-{[(1S)-1-(4-methoxyphenyl)ethyl]amino}pyrazin-2-yl)phenol | 71 mg, 35% | COC1=C(C=CC(=C1)C1=NC(=CN=C1)N[C@@H](C)C1=CC=C(C=C1)OC)O | C20H21N3O3
